US05681966
(k) Preparation of 3-phthalimidylpropanol (compound 106)
3-Bromopropanol (4.0 g, 28.78 mmol), potassium phthalimide (8.0 g, 43.17 mmol) and potassium carbonate (4.0 g, 28.78 mmol) were added to 20 mL DMF. The reaction mixture was stirred at 70° C. for 4 hours, quenched with water and extracted with ethyl acetate. The organic layer was washed with water, saturated NaCl solution and evaporated in vacuo to a solid which was crystallized in ethyl acetate (3.5 g, 67%).

reactant | 3-Bromopropanol | 28.78 mmol, 4.0 g | BrCCCO | C3H7BrO
reactant | potassium phthalimide | 43.17 mmol, 8.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | potassium carbonate | 28.78 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-phthalimidylpropanol | C1(C=2C(C(N1CCCO)=O)=CC=CC2)=O | C11H11NO3
